US08541594B2
To a suspension of 4-chloroselenobenzamide (219 mg, 1 mmol) and 2-chloromalonaldehyde (160 mg, 1.5 mmol) in 1,2-dimethoxyethane (1.5 ml) is added magnesium carbonate (42 mg, 0.5 mmol) and the resulting mixture is stirred at 60° C. under an atmosphere of nitrogen for 3 hours. The crude reaction mixture is then filtered through a plug of silica and washed with ethyl acetate, and filtrate is concentrated to give a brown solid. The crude product is purified by flash chromatography on silica gel to give 2-(4-chlorophenyl)selenazole-5-carbaldehyde (162 mg).

reactant | 4-chloroselenobenzamide | 1 mmol, 219 mg | ClC1=CC=C(C(=[Se])N)C=C1 | C7H6ClNSe
reactant | 2-chloromalonaldehyde | 1.5 mmol, 160 mg | ClC(C=O)C=O | C3H3ClO2
reactant | magnesium carbonate | 0.5 mmol, 42 mg | C([O-])([O-])=O.[Mg+2]
solvent | 1,2-dimethoxyethane | 1.5 ml | COCCOC | C4H10O2
product | 2-(4-chlorophenyl)selenazole-5-carbaldehyde | 162 mg | ClC1=CC=C(C=C1)C=1[Se]C(=CN1)C=O | C10H6ClNOSe
